### PR TITLE
[Merged by Bors] - feat(Analysis): radius of convergence for `FormalMultilinearSeries.compContinuousLinearMap`

### PR DESCRIPTION
**Pull request by vasnesterov**
- Add basic lemmas `compContinuousLinearMap_id` and `compContinuousLinearMap_comp`.  
- Prove lower and upper bounds for the convergence radius of `f.compContinuousLinearMap`.  
- Prove `radius_compNeg`: the convergence radii of `f(x)` and `f(-x)` are equal. 

---

In this PR I had to add `set_option linter.style.longFile 1700` in `Analytic/Basic.lean`.
I split this file in the next PR: #26270.

[Open in Gitpod](https://gitpod.io/from-referrer/)

This PR continues the work from #22531.

Original PR: https://github.com/leanprover-community/mathlib4/pull/22531

### CODE REVIEW

**Comment by vasnesterov** [comment]
## Comments from Original PR #22531

*This section contains 1 comment(s) from the original PR, excluding bot comments.*

---

**@github-actions** ([2025-03-04 09:19 UTC](https://github.com/leanprover-community/mathlib4/pull/22531#issuecomment-2696775628)):
### PR summary [50da38824a](https://github.com/leanprover-community/mathlib4/pull/22531/commits/50da38824a423fbdf63a150354f1c6ad897bd29c)

#### Import changes for modified files

No significant changes to the import graph


<details><summary>Import changes for all files</summary>

|Files|Import difference|
|-|-|

</details>

---

#### Declarations diff

No declarations were harmed in the making of this PR! 🐙
<details>
  <summary>You can run this locally as follows</summary>


```bash
## summary with just the declaration names:
./scripts/declarations_diff.sh <optional_commit>

## more verbose report:
./scripts/declarations_diff.sh long <optional_commit>
```
</details>

The doc-module for `script/declarations_diff.sh` contains some details about this script.

---

<details><summary>Increase in tech debt: (relative, absolute) = (1.00, 0.00)</summary>

|Current number|Change|Type|
|-:|:-:|:-|
|1556|1|porting notes|

Current commit [50da38824a](https://github.com/leanprover-community/mathlib4/commit/50da38824a423fbdf63a150354f1c6ad897bd29c)
Reference commit [42e558f91a](https://github.com/leanprover-community/mathlib4/commit/42e558f91af4757749ad0977a4181261c0de2e18)

You can run this locally as
```
./scripts/technical-debt-metrics.sh pr_summary
```
* The `relative` value is the weighted *sum* of the differences with weight given by the *inverse* of the current value of the statistic.
* The `absolute` value is the `relative` value divided by the total sum of the inverses of the current values (i.e. the weighted *average* of the differences).
</details>

File: Mathlib/Analysis/Calculus/FormalMultilinearSeries.lean [hunk 1]
```diff
@@ -352,9 +364,20 @@ def constFormalMultilinearSeries (𝕜 : Type*) [NontriviallyNormedField 𝕜] (
   | _ => 0
 
 @[simp]
-theorem constFormalMultilinearSeries_apply [NontriviallyNormedField 𝕜] [NormedAddCommGroup E]
-    [NormedAddCommGroup F] [NormedSpace 𝕜 E] [NormedSpace 𝕜 F] {c : F} {n : ℕ} (hn : n ≠ 0) :
-    constFormalMultilinearSeries 𝕜 E c n = 0 :=
+theorem constFormalMultilinearSeries_apply_zero [NontriviallyNormedField 𝕜] [NormedAddCommGroup E]
```
Comment (grunweg) [inline Mathlib/Analysis/Calculus/FormalMultilinearSeries.lean:367]: You're generalising and renaming a lemma here. Can you add a deprecated alias for the old one (pointing to the `_nonzero` lemma), please?

File: Mathlib/Analysis/Calculus/FormalMultilinearSeries.lean [hunk 2]
```diff
@@ -368,6 +391,23 @@ lemma constFormalMultilinearSeries_zero [NontriviallyNormedField 𝕜] [NormedAd
...
+    [NormedAddCommGroup F] [NormedSpace 𝕜 F]
+    [NormedAddCommGroup G] [NormedSpace 𝕜 G]
+    (p : FormalMultilinearSeries 𝕜 F G) :
+    p.compContinuousLinearMap (0 : E →L[𝕜] F) = constFormalMultilinearSeries 𝕜 E (p 0 0) := by
+  ext n v
+  cases n with
+  | zero =>
+    simp only [FormalMultilinearSeries.compContinuousLinearMap_apply, Matrix.zero_empty,
+      constFormalMultilinearSeries_apply_zero, ContinuousMultilinearMap.uncurry0_apply]
+    congr
```
Comment (grunweg) [inline Mathlib/Analysis/Calculus/FormalMultilinearSeries.lean:409]: Can simp do this if you add `Subsingleton.allEq` to the simp call? Optional.

File: Mathlib/Analysis/Analytic/Basic.lean [hunk 3]
```diff
@@ -72,6 +72,8 @@ notion, describing the polydisk of convergence. This notion is more specific, an
 build the general theory. We do not define it here.
 -/
 
+set_option linter.style.longFile 1700
```
Comment (grunweg) [inline Mathlib/Analysis/Analytic/Basic.lean]: nit: mathlib style is to move this to the end of the file
I won't insist on this, as you have a follow-up PR splitting the file again.

File: Mathlib/Analysis/Analytic/Basic.lean [hunk 4]
```diff
@@ -341,6 +343,80 @@ theorem radius_smul_eq (p : FormalMultilinearSeries 𝕜 E F) {c : 𝕜} (hc : c
...
+lemma norm_compContinuousLinearMap_le (p : FormalMultilinearSeries 𝕜 F G) (u : E →L[𝕜] F) (n : ℕ) :
+    ‖p.compContinuousLinearMap u n‖ ≤ ‖p n‖ * ‖u‖ ^ n := by
+  simp only [compContinuousLinearMap]
+  apply le_trans (ContinuousMultilinearMap.norm_compContinuousLinearMap_le _ _)
+  simp
+
+lemma nnnorm_compContinuousLinearMap_le (p : FormalMultilinearSeries 𝕜 F G)
+    (u : E →L[𝕜] F) (n : ℕ) : ‖p.compContinuousLinearMap u n‖₊ ≤ ‖p n‖₊ * ‖u‖₊ ^ n :=
+  norm_compContinuousLinearMap_le p u n
+
```
Comment (grunweg) [inline Mathlib/Analysis/Analytic/Basic.lean:360]: Is it difficult to add an `enorm` version as well? (You did so with one of the helper lemmas.)

Comment (grunweg) [reply Mathlib/Analysis/Analytic/Basic.lean:360]: In fact, I probably won't object if you add *only* an enorm version. My impression is that moving to enorm often does simplify things.

File: Mathlib/Analysis/Analytic/Basic.lean [hunk 5]
```diff
@@ -341,6 +343,80 @@ theorem radius_smul_eq (p : FormalMultilinearSeries 𝕜 E F) {c : 𝕜} (hc : c
...
+theorem div_le_radius_compContinuousLinearMap (p : FormalMultilinearSeries 𝕜 F G) (u : E →L[𝕜] F) :
+    p.radius / ‖u‖₊ ≤ (p.compContinuousLinearMap u).radius := by
```
Comment (grunweg) [inline Mathlib/Analysis/Analytic/Basic.lean]: Can you add an enorm version of this, please? (Again, I won't insist on having the nnnorm version in addition.)

File: Mathlib/Analysis/Analytic/Basic.lean [hunk 6]
```diff
@@ -341,6 +343,80 @@ theorem radius_smul_eq (p : FormalMultilinearSeries 𝕜 E F) {c : 𝕜} (hc : c
...
+    p.radius ≤ (p.compContinuousLinearMap u.toContinuousLinearMap).radius := by
+  obtain (h | h) := subsingleton_or_nontrivial E
+  · simp [Subsingleton.elim u.toContinuousLinearMap 0]
+  · simpa [u.norm_toContinuousLinearMap]
+      using div_le_radius_compContinuousLinearMap p u.toContinuousLinearMap
+
+theorem radius_compContinuousLinearMap_le [Nontrivial F]
+    (p : FormalMultilinearSeries 𝕜 F G) (u : E ≃L[𝕜] F) :
+    (p.compContinuousLinearMap u.toContinuousLinearMap).radius ≤
+    ‖u.symm.toContinuousLinearMap‖₊ * p.radius := by
```
Comment (grunweg) [inline Mathlib/Analysis/Analytic/Basic.lean]: Can you add an enorm version, please?

**Review by grunweg — CHANGES_REQUESTED** [review]
Thanks, your PR looks broadly good to me. All my comments are minor or should be relatively quick to address.

My main ask is about using nnnorm: I'm on a medium-term project to use `enorm` more in mathlib. Quite often, this can simplify proofs (as it avoids casting back and forth) --- and this can be a real generalisation. I wouldn't be surprised if most of mathlib's use of nnnorm would be replaced by enorm in theory. In any case, this would take a while, but I care that we not make this situation worse: hence, can you please add `enorm` versions of the `nnnorm` lemmas you're adding? (I've indicated the relevant locations below.)
My impression is that this should require limited further changes. If this is more work, I'll be happy to help with that.

File: Mathlib/Analysis/Calculus/FormalMultilinearSeries.lean (hunk 2 above)
Comment (vasnesterov) [reply Mathlib/Analysis/Calculus/FormalMultilinearSeries.lean:409]: Unfortunately not. I don't know how to make this simpler.

**Comment by grunweg** [comment]
Thanks! I wonder if the proof of `div_le_radius_compContinuousLinearMap` can be streamlined (it still feels a bit long), but haven't investigated closely. I think this is ready for a maintainer's look
@j-loreaux Would you like to give this a final review?

File: Mathlib/Analysis/Calculus/FormalMultilinearSeries.lean [hunk 7]
```diff
@@ -352,11 +364,25 @@ def constFormalMultilinearSeries (𝕜 : Type*) [NontriviallyNormedField 𝕜] (
...
+    constFormalMultilinearSeries 𝕜 E c 0 = ContinuousMultilinearMap.uncurry0 _ _ c :=
+  rfl
+
+@[simp]
+theorem constFormalMultilinearSeries_apply_succ [NontriviallyNormedField 𝕜] [NormedAddCommGroup E]
+    [NormedAddCommGroup F] [NormedSpace 𝕜 E] [NormedSpace 𝕜 F] {c : F} {n : ℕ} :
+    constFormalMultilinearSeries 𝕜 E c (n + 1) = 0 :=
+  rfl
+
+theorem constFormalMultilinearSeries_apply_nonzero [NontriviallyNormedField 𝕜]
```
Comment (j-loreaux) [inline Mathlib/Analysis/Calculus/FormalMultilinearSeries.lean]:
```suggestion
theorem constFormalMultilinearSeries_apply_of_nonzero [NontriviallyNormedField 𝕜]
```

File: Mathlib/Analysis/Calculus/FormalMultilinearSeries.lean [hunk 8]
```diff
@@ -352,11 +364,25 @@ def constFormalMultilinearSeries (𝕜 : Type*) [NontriviallyNormedField 𝕜] (
...
+    [NormedAddCommGroup E] [NormedAddCommGroup F] [NormedSpace 𝕜 E] [NormedSpace 𝕜 F] {c : F}
+    {n : ℕ} (hn : n ≠ 0) : constFormalMultilinearSeries 𝕜 E c n = 0 :=
   Nat.casesOn n (fun hn => (hn rfl).elim) (fun _ _ => rfl) hn
 
+@[deprecated (since := "2025-06-23")]
+alias constFormalMultilinearSeries_apply := constFormalMultilinearSeries_apply_nonzero
```
Comment (j-loreaux) [inline Mathlib/Analysis/Calculus/FormalMultilinearSeries.lean]:
```suggestion
alias constFormalMultilinearSeries_apply := constFormalMultilinearSeries_apply_of_nonzero
```

File: Mathlib/Analysis/Analytic/Basic.lean [hunk 9]
```diff
@@ -341,6 +341,87 @@ theorem radius_smul_eq (p : FormalMultilinearSeries 𝕜 E F) {c : 𝕜} (hc : c
...
+  rwa [ENNReal.div_le_iff' (by simpa [DFunLike.ext_iff] using exists_ne 0) (by simp)] at this
+
+@[simp]
+theorem radius_compContinuousLinearMap_linearIsometryEquiv_eq [Nontrivial E]
+    (p : FormalMultilinearSeries 𝕜 F G) (u : E ≃ₗᵢ[𝕜] F) :
+    (p.compContinuousLinearMap u.toLinearIsometry.toContinuousLinearMap).radius = p.radius := by
+  refine le_antisymm ?_ <| le_radius_compContinuousLinearMap _ _
+  have _ : Nontrivial F := u.symm.toEquiv.nontrivial
+  convert radius_compContinuousLinearMap_le p u.toContinuousLinearEquiv
+  have : u.toContinuousLinearEquiv.symm.toContinuousLinearMap =
```
Comment (grunweg) [inline Mathlib/Analysis/Analytic/Basic.lean:405]: This doesn't feel great; I'd have to read on zulip about the current consensus here.

**Comment by grunweg** [comment]
Hi @j-loreaux! We discussed this via DM, and I know you have some opinions here. This PR has been sitting for a month --- will you have a moment in the near future to look at this? Thanks!

File: Mathlib/Analysis/Analytic/Basic.lean (hunk 9 above)
Comment (j-loreaux) [reply Mathlib/Analysis/Analytic/Basic.lean:405]: There's just a diamond here (not an instance diamond). We have a `u : E ≃ₗᵢ[𝕜] F` and we want to consider it's inverse as a continuous linear map `F →L[𝕜] E`. We can either take the inverse, turn it into a linear isometry `F →ₗᵢ[𝕜] E` and then a continuous linear map, or we can turn the original map into a continuous linear equivalence `E ≃L[𝕜] F`, and then take the inverse and turn this into a continuous linear map.

If we added lemmas like this:
```lean
variable {𝕜 E F : Type*} [NontriviallyNormedField 𝕜]
  [NormedAddCommGroup E] [NormedAddCommGroup F] [NormedSpace 𝕜 E] [NormedSpace 𝕜 F]  (e : E ≃ₗᵢ[𝕜] F)

@[simp]
lemma LinearIsometryEquiv.toContinuousLinearMap_toContinuousLinearEquiv :
    e.toLinearIsometry.toContinuousLinearMap = e.toContinuousLinearEquiv.toContinuousLinearMap :=
  rfl
```
that take a `FooEquiv` turned into a `Foo` and then into a `Bar`, and switch it into something that starts with `FooEquiv`, turns it into a `BarEquiv` and then into a `Bar`; then this should be provable just by `simp`, without the `have`. (although I didn't actually test it on this code)

There is some justification for this type of lemma, because the moral is: "stay in `Equiv` land as long as possible". But I don't think we have general guidance of this nature. It would be good to have a discussion on Zulip about it (but I'm not going to start that @grunweg, you can if you want).

If we did have this lemma, then the left-hand side of the lemma in this PR is no longer in simp normal form, but that seems a minor point.

Comment (j-loreaux) [reply Mathlib/Analysis/Analytic/Basic.lean:405]: Although I don't think we should hold up the PR over this slightly ugly proof.

**Review by j-loreaux — COMMENTED** [review]
Please just change the name of two small lemmas and merge master, then you can merge (after CI finishes please).

bors d+

**Comment by j-loreaux** [comment]
thanks for the nudge @grunweg
